US04868185
Step 9--Preparation of [R*, S* (E)]-7-[4-(4-fluorophenyl)-2,6-dimethyl-5-pyrimidinyl]-5-hydroxy-3-oxo-6-heptenoic acid, ethyl ester
A solution of ethyl acetoacetate (11.65 mL, 0.0914 mol) in 50 mL of anhydrous tetrahydrofuran was added dropwise with stirring to a suspensionof sodium hydride (2.39 g, 0.0992 mol) in anhydrous tetrahydrofuran at 0° C. under nitrogen. The resulting mixture was stirred at 0° C. for ten minutes, after which n-butyl lithium (38.1 mL, 2.4M solution in tetrahydrofuran, 0.0914 mol) was added dropwise. The resultingorange solution was stirred for an additional ten minutes and then cooled to -78° C. A solution of (E)-3-[4-(4-fluorophenyl)-2,6-dimethyl-5-pyrimidinyl]-2-propenal (21.27 g,0.083 mol) in 100 mL of anhydrous tetrahydrofuran was added dropwise. The resulting solution was stirred for thirty minutes, and the cooling bath was removed, after which the reaction was quenched by the addition of 12 mL of glacial acetic acid.

reactant | ethyl acetoacetate | 0.0914 mol, 11.65 mL | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium hydride | 0.0992 mol, 2.39 g | [H-].[Na+]
reactant | n-butyl lithium | 0.0914 mol, 2.4M, 38.1 mL | C(CCC)[Li]
reactant | (E)-3-[4-(4-fluorophenyl)-2,6-dimethyl-5-pyrimidinyl]-2-propenal | 0.083 mol, 21.27 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/C=O)C)C | C15H13FN2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 7-[4-(4-fluorophenyl)-2,6-dimethyl-5-pyrimidinyl]-5-hydroxy-3-oxo-6-heptenoic acid, ethyl ester | FC1=CC=C(C=C1)C1=NC(=NC(=C1C=CC(CC(CC(=O)OCC)=O)O)C)C | C21H23FN2O4
